US07662402B2
15 g of (2,2,3,3,4,4,5,5-octafluoropentyl)trifluoromethanesulfonic acid and 2.6 g of malononitrile were dissolved in 20 ml of dimethyl sulfoxide, 5.5 g of potassium carbonate was added, and the mixture was stirred in a water bath for 3 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with methyl tert-butyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 2.0 g of 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile.

reactant | (2,2,3,3,4,4,5,5-octafluoropentyl)trifluoromethanesulfonic acid | 15 g | FC(COS(=O)(=O)C(F)(F)F)(C(C(C(F)F)(F)F)(F)F)F | C6H3F11O3S
reactant | malononitrile | 2.6 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile | 2.0 g | FC(CC(C#N)C#N)(C(C(C(F)F)(F)F)(F)F)F | C8H4F8N2
